US05627191
A mixture of 1,2-diiodobenzene (6.6 g) and tetrakis(triphenylphosphine)palladium(0) (0.34 g) in AR toluene (100 ml) was stirred under a nitrogen atmosphere at ambient temperature. A solution of sodium carbonate (2 g) in water (15 ml) was added. The resulting orange mixture was stirred and heated under reflux while a solution of 4-methylbenzeneboronic acid (1.36 g) in industrial methylated spirit (40 ml) was added dropwise over a period of 40 minutes. The mixture obtained was heated under reflux for an additional 4 hours, then cooled to ambient temperature. Aqueous hydrogen peroxide (30%; 1 ml) was added and the resulting mixture was stirred for 1 hour at ambient temperature. Saturated aqueous sodium chloride solution (50 ml) was then added and the organic phase was separated. The aqueous phase was extracted with ethyl acetate (2×50 ml) and the combined organic phases were washed with saturated aqueous sodium chloride solution (1×70 ml), dried over magnesium sulphate and evaporated to give an orange oil. This oil was triturated with petroleum ether (b.p. 40°-60° C.) (200 ml) to give a gum which was partially purified by flash chromatography on silica gel (eluting with petroleum ether (b.p. 40°-60° C.): ethyl acetate (4:1)) then further purified by high performance liquid chromatography on a silica column (eluting with petroleum ether (b.p. 60°-80° C.) at 200 ml/minute), to give the intermediate compound 2'-iodo-4-methylbiphenyl as a colourless oil (1.3 g).

reactant | 1,2-diiodobenzene | 6.6 g | IC1=C(C=CC=C1)I | C6H4I2
reactant | sodium carbonate | 2 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | 4-methylbenzeneboronic acid | 1.36 g | CC1=CC=C(C=C1)B(O)O | C7H9BO2
reactant | hydrogen peroxide | 1 ml | OO | H2O2
reactant | sodium chloride | 50 ml | [Cl-].[Na+]
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 15 ml | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.34 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2'-iodo-4-methylbiphenyl | 1.3 g | IC1=C(C=CC=C1)C1=CC=C(C=C1)C | C13H11I
